US07612084B2
tert-Butyl{2-[4-(3-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}propoxy)phenyl]ethyl}carbamate
tert-Butyl[2-(4-{[(2E)-3-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenyl}prop-2-en-1-yl]oxy}phenyl)ethyl]carbamate (Preparation 6, 475 mg, 0.70 mmol) was dissolved in ethanol (20 ml) and 10% palladium on carbon (50 mg) added. The reaction was heated to 40° C. under 50 psi of hydrogen for 4 hours. The reaction was cooled to room temperature and filtered through Arbocel™, the filtrate was collected and the solvent removed in vacuo to furnish the title compound as a glass, 400 mg.

reactant | tert-Butyl[2-(4-{[(2E)-3-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenyl}prop-2-en-1-yl]oxy}phenyl)ethyl]carbamate | 0.70 mmol, 475 mg | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)OC\C=C\C1=CC(=C(C=C1)OCC1=CC=CC=C1)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)=O | C44H56N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | tert-Butyl{2-[4-(3-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}propoxy)phenyl]ethyl}carbamate | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)OCCCC1=CC(=C(C=C1)O)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)=O | C37H52N2O4
